US05204482
A solution of 3 g (0.13 gram atom) of sodium in 50 ml of methanol were added dropwise at 0°-5° within 20 minutes to a solution, cooled to 0°, of 16.1 g (152 mmol) of benzaldehyde and 20.0 g (140 mmol) of methyl dichloroacetate in 50 ml of ether. Thereafter, the reaction mixture was stirred at 0°-5° for a further 1.5 hours, then diluted with 100 ml of ethyl acetate and extracted with saturated sodium chloride solution. The organic phase was dried over magnesium sulfate and evaporated. The residue was dissolved in 50 mo of methanol and heated to reflux for 14 hours with 6.72 g (112 mmol) of urea. The reaction mixture was evaporated under reduced pressure, partitioned between methylene chloride and water, adjusted to pH 9 with conc. sodium hydroxide solution and extracted. The alkaline, aqueous phases were further extracted with methylene chloride. The organic phases were combined and washed twice with saturated sodium chloride solution, dried and evaporated. The residue was purified by medium pressure chromatography on 1 kg of silica gel. Elution with methylene chloride as well as methylene chloride/methanol 9:1 yield 8.4 g of an oil which crystallized from a mixture of methylene chloride, ether and hexane. In this manner there were obtained 4.7 g (35%) of methyl 2-amino-5-phenyl-4-oxazolecarboxylate as light yellowish crystals which were processed without further purification.

reactant | sodium | 3 g | [Na] | Na
reactant | benzaldehyde | 152 mmol, 16.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | methyl dichloroacetate | 140 mmol, 20.0 g | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | urea | 112 mmol, 6.72 g | NC(=O)N | CH4N2O
solvent | methanol | 50 ml | CO | CH4O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-amino-5-phenyl-4-oxazolecarboxylate | 4.7 g, 35% | NC=1OC(=C(N1)C(=O)OC)C1=CC=CC=C1 | C11H10N2O3
